US07700641B2
Synthesis of 1′-pentyl-6-pyridin-3-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
A mixture of 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one (0.08 g, 0.19 mmol), pyridine-3-boronic acid (0.05 g, 0.41 mmol), palladium acetate (0.002 g, 0.07 mmol), tri-O-tolylphosphine (0.0015 g, 0.005 mmol), 2 M sodium carbonate (1.00 mL) and 1,2-dimethoxyethane (9.00 mL) was heated at reflux for 16 hours under N2. The solvent was evaporated and the black residue was extracted with ethyl acetate (4×15.0 mL). The combined organics was dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography (ethyl acetate/hexane, 4/1) to give the title compound (0.07 g, 67% yield) as a white solid: 1H NMR (300 MHz, CDCl3) δ 8.60 (br, 1H), 7.85 (d, 1H), 7.45-7.24 (m, 3H), 7.20-7.10 (m, 2H), 7.12-6.98 (m, 2H), 6.95 (d, 1H), 6.81 (d, 1H), 5.05 (d, 1H), 4.78 (d, 1H), 3.89-3.64 (m, 2H), 1.80-1.68 (m, 2H), 1.43-1.34 (m, 4H), 0.92 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 176.9, 161.6, 149.5, 147.3, 142.6, 139.9, 136.4, 135.6, 133.4, 130.1, 129.2, 124.9, 121.7, 119.5, 110.3, 109.7, 107.7, 80.1, 57.8, 42.3, 28.8, 27.1, 22.3, 14.85; MS (ES+) m/z 385.5 (M+1).

reactant | 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 0.19 mmol, 0.08 g | BrC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
reactant | pyridine-3-boronic acid | 0.41 mmol, 0.05 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 2 M, 1.00 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium acetate | 0.07 mmol, 0.002 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-O-tolylphosphine | 0.005 mmol, 0.0015 g | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
solvent | 1,2-dimethoxyethane | 9.00 mL | COCCOC | C4H10O2
product | 1′-pentyl-6-pyridin-3-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 0.07 g, 67% yield | C(CCCC)N1C(C2(C3=CC=CC=C13)COC1=C2C=CC(=C1)C=1C=NC=CC1)=O | C25H24N2O2
